US07943669B2
Step A: {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
{4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (200 mg; 0.45 mmol), 4-fluorobenzylalcohol (85.7 mg; 0.68 mmol), tributylphosphine (0.27 mL; 1.36 mmol) and 1,1′-(azodicarbonyl)dipiperidine (0.34 g; 1.36 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. After stirring for 1 h the reaction mixture was purified by prep. HPLC (method A). Yield: 200 mg. HPLC-MS: m/z: 550.3 (M+H); Rt: 2.00 min.

reactant | {4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.45 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)O)C)=O | C24H27NO5S
reactant | 4-fluorobenzylalcohol | 0.68 mmol, 85.7 mg | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | tributylphosphine | 1.36 mmol, 0.27 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.36 mmol, 0.34 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {4-[3-(4-Fluoro-benzyloxy)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1=CC=C(C=C1)F)C)=O | C31H32FNO5S
